US05650428
The procedure described in Example 125 was repeated, except that (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-methanesulfonyloxypropanamide (300 mg) was reacted with 4-chlorophenol (153 mg) to obtain (RS)-3-(4-chlorophenoxy)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)propanamide (236.25 mg).

reactant | (RS)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)-3-methanesulfonyloxypropanamide | 300 mg | C(C)OC(=O)CC1=CC=C(C=C1)NC(C(COS(=O)(=O)C)NS(=O)(=O)C1=CC=C(C=C1)F)=O | C20H23FN2O8S2
reactant | 4-chlorophenol | 153 mg | ClC1=CC=C(C=C1)O | C6H5ClO
product | (RS)-3-(4-chlorophenoxy)-N-(4-(ethoxycarbonylmethyl)phenyl)-2-(4-fluorobenzenesulfonylamino)propanamide | 236.25 mg | ClC1=CC=C(OCC(C(=O)NC2=CC=C(C=C2)CC(=O)OCC)NS(=O)(=O)C2=CC=C(C=C2)F)C=C1 | C25H24ClFN2O6S
